US06979690B2
Step 3. 6-Amino-5-chloro-N-{[1-(cyclohexylmethyl)-4-piperidinyl]methyl}-2-oxo-1,2-dihydro-3-pyridinecarboxamide
A solution of 6-amino-5-chloro-N-{[1-(cyclohexylmethyl)-4-piperidinyl]methyl}-2-(methyloxy)-3-pyridinecarboxamide (109 mg, 0.28 mmol) in 10% methanolic hydrogen chloride (8 ml) was refluxed with stirring for 10 h. After cooling to room temperature, the solvent was removed in vacuo. The residue was suspended in methanol/tetrahydrofuran (1:3, 50 ml) and potassium carbonate (ca. 50 mg) was added to the mixture. The mixture was filtered through a pad of Celite and the filtrate was concentrated in vacuo. The residue was chromatographed on a column of aminopropyl silica gel eluting with methanol/dichloromethane (1:3) to give 69 mg (66%) of the title compound as a white solid.

reactant | 6-amino-5-chloro-N-{[1-(cyclohexylmethyl)-4-piperidinyl]methyl}-2-(methyloxy)-3-pyridinecarboxamide | 0.28 mmol, 109 mg | NC1=C(C=C(C(=N1)OC)C(=O)NCC1CCN(CC1)CC1CCCCC1)Cl | C20H31ClN4O2
solvent | hydrogen chloride | 8 ml | Cl | ClH
product | 6-Amino-5-chloro-N-{[1-(cyclohexylmethyl)-4-piperidinyl]methyl}-2-oxo-1,2-dihydro-3-pyridinecarboxamide | 69 mg, 66% | NC1=C(C=C(C(N1)=O)C(=O)NCC1CCN(CC1)CC1CCCCC1)Cl | C19H29ClN4O2
